US06586630B1
(5) Synthesis of Fmoc-Phe-N-Me-Val-Tyr(3-NO2)—NH2
To a solution of Fmoc-Phe-N-Me-Val-Tyr-NH2 (230 mg, 0.340 mmol) in methylene chloride (1 ml) and acetic acid (1 ml), fuming nitric acid (0.03 ml) was added under cooling with ice, followed by stirring at room temperature for 1 hour. The reaction mixture was mixed with water and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=2:1) to give the titled compound (204 mg, 83%).

reactant | Fmoc-Phe-N-Me-Val-Tyr-NH2 | 0.340 mmol, 230 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C39H42N4O6
reactant | water | O | H2O
reactant | nitric acid | 0.03 ml | [N+](=O)(O)[O-] | HNO3
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | Fmoc-Phe-N-Me-Val-Tyr(3-NO2)—NH2 | 204 mg, 83% | N([C@@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC(=C(C=C1)O)[N+](=O)[O-])C(=O)N)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C39H41N5O8
